US04614833
2-chloro-3-(4-phenylbenzoyl)-pyridine
26.7 g AlCl3 is added slowly while stirring to a solution of 9.2 g biphenyl and 10.6 g 2-chloronicotinoyl chloride in 170 ml carbon disulfide. The mixture is refluxed 5 hrs. After cooling, the S2C layer is poured off, and the residue is added to acidic ice: water, basified and extracted with methylene chloride. The combined extracts are washed, dried (MgSO4) and solvent removed in vacuo. The crude product is chromatographed on a silicagel column and eluted with benzene:ethyl acetate 15:1. Yield: 5 g of title product, m.p. 128°-32° C.; UV (ethanol): λmax. 295 nm, ε: 27,260; Cl 11.96 (12.07).

reactant | AlCl3 | 26.7 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | biphenyl | 9.2 g | C1(=CC=CC=C1)C1=CC=CC=C1 | C12H10
reactant | 2-chloronicotinoyl chloride | 10.6 g | ClC1=C(C(=O)Cl)C=CC=N1 | C6H3Cl2NO
reactant | water | O | H2O
solvent | carbon disulfide | 170 ml | C(=S)=S | CS2
product | 2-chloro-3-(4-phenylbenzoyl)-pyridine | ClC1=NC=CC=C1C(C1=CC=C(C=C1)C1=CC=CC=C1)=O | C18H12ClNO
